* C:\Users\ocata\OneDrive\Desktop\LTSpice\AFE.asc
XU1 0 SUM VOUT vdd -2.5 NC_01 LTC6268
XX1 SUM BIAS OPT KPDE030 KPDE030
V2 N001 0 2.5
C1 BIAS 0 10n
V1 OPT 0 PWL(0n 0.437u 10n 0.437u 20n 0.437u 30n 0.437u 40n 0.437u 50n 0.437u 60n 0.437u 70n 0.437u 80n 0.437u 90n 0.195u 100n 0.195u 110n 0.195u 120n 0.195u 130n 0.195u 140n 0.195u 150n 0.437u 160n 0.437u 170n 0.195u 180n 0.437u 190n 0.195u 200n 0.437u 210n 0.195u) AC 1
R1 BIAS N001 100k
V3 VDD 0 2.5
C2 vdd 0 0.5µ
R2 SUM VOUT 5k
C3 SUM VOUT 0.5p
V4 -2.5 0 -2.5
C4 TIA_out VOUT 10n
R3 TIA_out 0 10k
XU3 TIA_out N002 buffer_out vdd -2.5 LT6201
R4 N002 0 1k
R5 buffer_out N002 2k
.include "KPDE030.lib"
;.ac dec 100 10k 1G
.tran 2u
.lib LTC2.lib
.backanno
.end
