* C:\Users\ocata\OneDrive\Desktop\LTSpice\AFE.asc
XU1 0 SUM VOUT vdd -2.5 NC_01 LTC6268
XX1 SUM BIAS OPT KPDE030 KPDE030
V2 N001 0 2.5
C1 BIAS 0 10n
V1 OPT 0 PWL(0n 0.437u 10n 0.437u 20n 0.437u 30n 0.437u 40n 0.437u 50n 0.437u 60n 0.437u 70n 0.437u 80n 0.437u 90n 0.195u 100n 0.195u 110n 0.195u 120n 0.195u 130n 0.195u 140n 0.195u 150n 0.437u 160n 0.437u 170n 0.195u 180n 0.437u 190n 0.195u 200n 0.437u 210n 0.195u) AC 1
R1 BIAS N001 100k
V3 VDD 0 2.5
C2 vdd 0 0.5µ
R2 SUM VOUT 5k
C3 SUM VOUT 0.5p
V4 -2.5 0 -2.5
C4 N002 VOUT 10n
R3 N002 0 10k
R4 N003 0 1.5k
R5 buffer_out N003 5k
XU2 TIA_out N003 buffer_out vdd -2.5 NC_02 LTC6228
C5 buffer_out N003 1p
R6 TIA_out N002 30
XU3 buffer_out dc_reference vdd 0 0 comparator_out NC_03 0 LT1711
R7 vdd dc_reference 3.215k
R8 dc_reference 0 1k
R9 comparator_out dc_reference 100k
XU4 comparator_out dc_reference2 vdd 0 0 comparator2_out NC_04 0 LT1711
R10 vdd dc_reference2 3.215k
R11 dc_reference2 0 1k
.include "KPDE030.lib"
;.ac dec 100 10k 1G
.tran 2u
.lib LTC1.lib
.lib LTC2.lib
.lib LTC6228.lib
.backanno
.end
